US07488827B2
4-[hydroxy(diphenyl)methyl]-1-{2-[(2-naphthalenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide
1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (30 mg, 0.102 mmol) was added to a solution of 2-{[(2-bromoethyl)oxy]methyl}naphthalene (38 mg, 0.143 mmol) in 2:3 CH3CN/CHCl3 (3 mL), and the reaction was heated at 60° C. for 96 h. The reaction was concentrated, and the crude product washed with EtOAc (3×1 mL). The product was dried under high vacuum to give the title compound (48.1 mg, 84%). LC/MS ESI RT 2.04 min M+478

reactant | 1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.102 mmol, 30 mg | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-{[(2-bromoethyl)oxy]methyl}naphthalene | 0.143 mmol, 38 mg | BrCCOCC1=CC2=CC=CC=C2C=C1 | C13H13BrO
solvent | CH3CN CHCl3 | 3 mL | CC#N.C(Cl)(Cl)Cl
product | 4-[hydroxy(diphenyl)methyl]-1-{2-[(2-naphthalenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide | 48.1 mg, 84% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOCC2=CC1=CC=CC=C1C=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C33H36NO2.BrH/c35-33(30-11-3-1-4-12-30,31-13-5-2-6-14-31)32-17-20-34(21-18-32,22-19-32)23-24-36-26-27-15-16-28-9-7-8-10-29(28)25-27;/h1-16,25,35H,17-24,26H2;1H/q+1;/p-1
